US03931247
A mixture of 50 g (0.42 mole) of p-aminobenzonitrile, 146 ml of concentrated hydrochloric acid, and 106 ml of H2O was heated at 80° for for 20 minutes and then cooled to 0°. A solution of 29 g (0.42 mole) of sodium nitrite in 105 ml of H2O was added dropwise while maintaining the temperature at 0°-5° by means of an ice bath. The reaction was kept at 0° for 45 minutes. A solution of 47 g (0.42 mole) of methyl 2-furyl ketone in 43 ml of acetonitrile was added followed by a solution of 10 g of CuCl2 .2H2O in 50 ml of water. The reaction became exothermic and was controlled below 40°. The reaction was allowed to stand overnight. The aqueous layer was decanted and the residual semisolid was extracted with 6000 ml of refluxing hexane. The hexane was cooled and the resulting precipitate was filtered and air dried to yield 16 g (18%) of p-(5-acetyl-2-furyl)benzonitrile. An analytical sample was prepared by recrystallizing a sample from hexane/charcoal, m.p. 115°-116°.

reactant | p-aminobenzonitrile | 0.42 mole, 50 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | hydrochloric acid | 146 ml | Cl | ClH
reactant | sodium nitrite | 0.42 mole, 29 g | N(=O)[O-].[Na+]
reactant | methyl 2-furyl ketone | 0.42 mole, 47 g | O1C(=CC=C1)C(=O)C | C6H6O2
solvent | H2O | 105 ml | O | H2O
solvent | acetonitrile | 43 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
solvent | H2O | 106 ml | O | H2O
product | p-(5-acetyl-2-furyl)benzonitrile | 16 g, 18% | C(C)(=O)C1=CC=C(O1)C1=CC=C(C#N)C=C1 | C13H9NO2
